US06890916B2
1-(3-Bromopropan-1-yl)-3,4-dihydroquinolin-2(1H)-one
A suspension of sodium hydride (6.8 g, 60% in mineral oil) and dimethyl formamide (200 mL) was kept at 20-25° C. followed by the addition of a solution of 3,4-dihydroquinolin-2(1H)-one (25.0 g) in dimethyl formamide (180 mL). The resulting mixture was stirred at room temperature for 10 min followed by the addition of a solution of 1,3-dibromopropane (172 g) in dimethyl formamide (150 mL) at a temperature of 20-35° C. The resulting mixture was stirred at 30° C. for 20 min and concentrated in vacuo. The residue was poured onto ice, and the aqueous phase was extracted with ethyl acetate. The combined organic phases were washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography on silicagel (eluent:ethyl acetate/heptane 1:1) to give the product as a yellow oil (27 g).

reactant | sodium hydride | 6.8 g | [H-].[Na+]
reactant | 3,4-dihydroquinolin-2(1H)-one | 25.0 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | 1,3-dibromopropane | 172 g | BrCCCBr | C3H6Br2
solvent | dimethyl formamide | 180 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 150 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 200 mL | CN(C=O)C | C3H7NO
product | 1-(3-Bromopropan-1-yl)-3,4-dihydroquinolin-2(1H)-one | 27 g | BrCCCN1C(CCC2=CC=CC=C12)=O | C12H14BrNO
